US06121460
100 g N-acetyl-indoline-2-carboxylic acid (purity 96.5%) was dissolved in 835 ml of a mixture containing 90% ethanol (EtOH), 5% water and 5% methanol (MeOH), with heating to 60° C., and with mechanical stirring. 54.4 g/0.69 eq. (1S,2S)-1-phenyl-2-amino-1,3-propanediol ([α]20D =+25.7° (c=1, MeOH)) was dosed in portions in 30 min. at 60° C. At the end spontaneous crystallization of the salt took place. After 30 minutes' subsequent stirring at 60-66° C., cooling to 15° C. took place, followed by another 30 minutes' stirring. After filtration over a P4 glass filter, three washings with 120 ml EtOH took place. After air-drying, 68.9 g off-white (S)-N-acetyl-indoline-2-carboxylic acid-(1S,2S)-1-phenyl-2-amino-1,3-propanediol salt was obtained, corresponding to a yield of 37.8%. Enantiomeric excess=96.3% (chiral HPLC).

reactant | N-acetyl-indoline-2-carboxylic acid | 100 g | C(C)(=O)N1C(CC2=CC=CC=C12)C(=O)O | C11H11NO3
reactant | ethanol | C(C)O | C2H6O
reactant | water | O | H2O
reactant | (1S,2S)-1-phenyl-2-amino-1,3-propanediol | 0.69 eq. | C1(=CC=CC=C1)[C@@H]([C@H](CO)N)O | C9H13NO2
solvent | methanol | CO | CH4O
product | (S)-N-acetyl-indoline-2-carboxylic acid-(1S,2S)-1-phenyl-2-amino-1,3-propanediol salt | 68.9 g, yield of 37.8% | C1(=CC=CC=C1)[C@@H]([C@H](CO)N)O.C(C)(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | InChI=1S/C11H11NO3.C9H13NO2/c1-7(13)12-9-5-3-2-4-8(9)6-10(12)11(14)15;10-8(6-11)9(12)7-4-2-1-3-5-7/h2-5,10H,6H2,1H3,(H,14,15);1-5,8-9,11-12H,6,10H2/t10-;8-,9-/m00/s1
